US07465795B2
4-amino-8-(4-dimethylaminophenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (100 mg, 0.33 mmol) and 4-dimethylaminophenyl boronic acid (160 mg, 0.97 mmol) were reacted to afford the title compound (105 mg, 93.0% yield) as a pale-yellow solid. 1H NMR (300 MHz, CDCl3) δ 8.61 (br, 1H), 7.58-7.85 (m, 5H), 6.88 (d, J=8.8 Hz, 2H), 3.47 (q, J=6.7 Hz, 2H), 3.02 (s, 6H), 1.67 (m, J=7.3 Hz, 2H), 1.01 (t, J=7.4 Hz, 3H) MS APCI, m/z=350 (M+H) HPLC 2.67 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.33 mmol, 100 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 4-dimethylaminophenyl boronic acid | 0.97 mmol, 160 mg | CN(C1=CC=C(C=C1)B(O)O)C | C8H12BNO2
product | 4-amino-8-(4-dimethylaminophenyl)-N-propyl-cinnoline-3-carboxamide | 105 mg, 93.0% yield | NC1=C(N=NC2=C(C=CC=C12)C1=CC=C(C=C1)N(C)C)C(=O)NCCC | C20H23N5O
